US05041448
A mixture of 4 parts of ethyl 4-[[[[4-[(2-furanylmethyl)amino]-5-pyrimidinyl]amino]thioxomethyl]-amino]-1-piperidinecarboxylate, 6 parts of mercury(II) oxide and 80 parts of ethanol was stirred for 2 hours at reflux temperature. The whole was filtered while hot over Hyflo® and the filtrate was evaporated. The residue was crystallized from a mixture of acetonitrile and ethanol. The product was filtered off and dried, yielding 0.8 parts (21.5%) of ethyl 4-[[9-(2-furanylmethyl)-9H-purin-8-yl]amino]-1-piperidinecarboxylate; mp. 171.9° C. (compound 7).

reactant | ethyl 4-[[[[4-[(2-furanylmethyl)amino]-5-pyrimidinyl]amino]thioxomethyl]-amino]-1-piperidinecarboxylate | O1C(=CC=C1)CNC1=NC=NC=C1NC(=S)NC1CCN(CC1)C(=O)OCC | C18H24N6O3S
catalyst | mercury(II) oxide | [Hg]=O
solvent | ethanol | C(C)O | C2H6O
product | ethyl 4-[[9-(2-furanylmethyl)-9H-purin-8-yl]amino]-1-piperidinecarboxylate | 21.5% | O1C(=CC=C1)CN1C2=NC=NC=C2N=C1NC1CCN(CC1)C(=O)OCC | C18H22N6O3
